US07244738B2
Step 1: 3-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-benzaldehyde.
TBDMSCl silylation reagent in DMF (60 mL) was added to 3-(2-hydroxy-ethoxy)-benzaldehyde (4.985 g, 30.00 mmol). The mixture was stirred at room temperature for 72 h. The mixture was diluted with water and extracted with diethyl ether. The ethereal extracts were dried over Na2SO4 and concentrated in vacuo. The residue was purified by SiO2 eluted with 95:5 CH2Cl2/MeOH to give 2.38 g (28%) of a clear oil.

reactant | TBDMSCl | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | 3-(2-hydroxy-ethoxy)-benzaldehyde | 30.00 mmol, 4.985 g | OCCOC=1C=C(C=O)C=CC1 | C9H10O3
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-benzaldehyde | 2.38 g, 28% | C(C)(C)(C)[Si](OCCOC=1C=C(C=O)C=CC1)(C)C | C15H24O3Si
